US07271197B2
iv) 4-[3-(Cyclopentylsulfinyl)phenyl]butan-1-ol
A solution of tert-butyl{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}diphenylsilane (690 mg) in dry THF (10 ml) was treated with a solution of tetra-n-butylammonium fluoride in THF (1M; 3 ml) and the resultant reaction mixture stirred at room temperature for 5 h prior to concentration in vacuo. The residue was purified by chromatography (SPE, Gradient between cyclohexane and EtOAc) to give the title compound. LCMS RT=2.64 min.

reactant | tert-butyl{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}diphenylsilane | 690 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCCCC1=CC(=CC=C1)S(=O)C1CCCC1 | C31H40O2SSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 3 ml | C1CCOC1 | C4H8O
product | 4-[3-(Cyclopentylsulfinyl)phenyl]butan-1-ol | C1(CCCC1)S(=O)C=1C=C(C=CC1)CCCCO | C15H22O2S
